US09447084B2
4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]piperazine-2,6-dione
Into a 25-mL round-bottom flask, was placed 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid (70 mg, 0.14 mmol, 1.00 equiv), N,N-dimethylformamide (3 mL), HATU (105 mg, 0.28 mmol, 2.00 equiv), DIEA (36 mg, 0.28 mmol, 1.96 equiv), piperazine-2,6-dione (32 mg, 0.28 mmol, 1.99 equiv). The resulting solution was stirred for 1 h at 25° C. The reaction was then quenched by the addition of 10 ml of water. The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×20 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a TLC plate with ethyl acetate/petroleum ether (1/1). This resulted in 70 mg (76%) of 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]piperazine-2,6-dione as colorless oil.

reactant | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | 0.14 mmol, 70 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF9NO3
reactant | HATU | 0.28 mmol, 105 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.28 mmol, 36 mg, 1.96 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | piperazine-2,6-dione | 0.28 mmol, 32 mg, 1.99 equiv | N1C(CNCC1=O)=O | C4H6N2O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]piperazine-2,6-dione | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C(F)(F)F)C(F)(F)F | C23H13ClF9N3O4
